US07582773B2
Step 3: Synthesis of 1-Benzyl-5-(4-methoxy-phenyl)-3-pentyl-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 3 of example 3. Thus, 1-benzyl-5-bromo-3-pentyl-2-phenyl-1H-indole (1.282 g, 2.965 mmol) was reacted with aqueous 2M K2CO3 (3.0 ml), 4-methoxyphenylboronic acid (0.631 g, 4.151 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.073 g, 0.089 mmol) in dioxane (30 ml) to give the product (0.727 g, 1.582 mmol, 53%) as a yellow solid, mp 91-110° C. 1H NMR (DMSO-d6) δ 0.76 (t, J=7.0 Hz, 3H), 1.15-1.21 (m, 4H), 1.54-1.59 (m, 2H), 2.68 (t, J=7.3 Hz, 2H), 3.79 (s, 3H), 5.27 (s, 2H), 6.84 (d, J=7.0 Hz, 2H), 7.01 (d, J=8.9 Hz, 2H), 7.15 (t, J=7.2 Hz, 1H), 7.20 (t, J=6.9 Hz, 2H), 7.33-7.38 (m, 4H), 7.43 (t, J=7.2 Hz, 1H), 7.48 (t, J=6.9 Hz, 2H), 7.60 (d, J=8.9 Hz, 2H), 7.75 (d, J=0.8 Hz, 1H); [ESI(+)], m/z 460 (M+H)+.

reactant | 1-benzyl-5-bromo-3-pentyl-2-phenyl-1H-indole | 2.965 mmol, 1.282 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Br)CCCCC)C1=CC=CC=C1 | C26H26BrN
reactant | K2CO3 | 2M, 3.0 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 4.151 mmol, 0.631 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | dichloromethane | 0.089 mmol, 0.073 g | ClCCl | CH2Cl2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Benzyl-5-(4-methoxy-phenyl)-3-pentyl-2-phenyl-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)CCCCC)C1=CC=CC=C1 | C33H33NO
